US06826033B2
To a mixture of (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol (77 mg) and benzoic acid (28 mg) in N,N-dimethylformamide (0.8 ml) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (57 mg), and the mixture was stirred at room temperature for 20 hours. The mixture was partitioned between hexane-ethyl acetate and water. The organic layer was separated, washed successively with water and brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated to give N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino)-3-hydroxypropyl]phenyl]-benzamide (95 mg) as a white amorphous powder.

reactant | (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol | 77 mg | NC1=CC=C(C=C1)C[C@@H](CO)N(C[C@@H](COC1=CC=CC=C1)O)CC1=CC=CC=C1 | C25H30N2O3
reactant | benzoic acid | 28 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 57 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 0.8 ml | CN(C=O)C | C3H7NO
product | N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino)-3-hydroxypropyl]phenyl]-benzamide | 95 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O)CO | C32H34N2O4
